US06448281B1
(S)-2-tert-Butoxycarbonylamino-3-(4-cyanomethoxyphenyl)-propionic Acid Benzyl Ester
N-Boc-L-tyrosine benzyl ester (0.371 g, 1 mmol) was dissolved in acetone (5 mL) and cesium carbonate (0.650 g, 2 mmol) was added followed by chloroacetonitrile (0.150 g, 2 mmol). The mixture was then reflux for 2 h. The reaction was cooled to room temperature and insoluble salts removed by filtration using acetone for washings. Volatiles were removed under reduced pressure and the residue dissolved in DCM. The solution was washed with brine, dried (MgSO4) and concentrated to give the desired product as an oil (450 mg).

reactant | N-Boc-L-tyrosine benzyl ester | 1 mmol, 0.371 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C21H25NO5
reactant | cesium carbonate | 2 mmol, 0.650 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloroacetonitrile | 2 mmol, 0.150 g | ClCC#N | C2H2ClN
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | (S)-2-tert-Butoxycarbonylamino-3-(4-cyanomethoxyphenyl)-propionic Acid Benzyl Ester | 450 mg | C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)OCC#N)NC(=O)OC(C)(C)C)=O | C23H26N2O5
